US08497274B2
(vi) Production of N-[6-(5-amino-2-chloro-4-fluorophenoxy)-7-cyano-1,3-benzothiazol-2-yl]cyclopropanecarboxamide
To a solution of sodium borohydride (266 mg, 7.02 mmol) in ethanol (10 mL) was added dropwise methanol (1 mL), and N-(6-{2-chloro-4-fluoro-5-[(trifluoroacetyl)amino]phenoxy}-7-cyano-1,3-benzothiazol-2-yl)cyclopropanecarboxamide (350 mg, 0.70 mmol) was added to the suspension. The reaction mixture was stirred at 60° C. for 1 hr, and concentrated under reduced pressure. The obtained residue was diluted with ethyl acetate (100 mL), washed successively with 5% aqueous sodium hydrogen carbonate solution (50 ml) and saturated brine (50 mL), and dried over anhydrous sodium sulfate. Insoluble material was filtered off, and the filtrate was concentrated under reduced pressure. The obtained residue was purified by preparative thin layer chromatography (ethyl acetate/n-hexane=50/50), and the band containing the object product was scraped off, and eluted with 10% tetrahydrofuran/ethyl acetate. The obtained solution was purified by basic silica gel column chromatography (eluate: ethyl acetate). The obtained solution was concentrated under reduced pressure to give the title compound (180 mg, 64%) as a white powder.

reactant | sodium borohydride | 7.02 mmol, 266 mg | [BH4-].[Na+]
reactant | methanol | 1 mL | CO | CH4O
reactant | N-(6-{2-chloro-4-fluoro-5-[(trifluoroacetyl)amino]phenoxy}-7-cyano-1,3-benzothiazol-2-yl)cyclopropanecarboxamide | 0.70 mmol, 350 mg | ClC1=C(OC2=C(C3=C(N=C(S3)NC(=O)C3CC3)C=C2)C#N)C=C(C(=C1)F)NC(C(F)(F)F)=O | C20H11ClF4N4O3S
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | N-[6-(5-amino-2-chloro-4-fluorophenoxy)-7-cyano-1,3-benzothiazol-2-yl]cyclopropanecarboxamide | 180 mg, 64% | NC=1C(=CC(=C(OC2=C(C3=C(N=C(S3)NC(=O)C3CC3)C=C2)C#N)C1)Cl)F | C18H12ClFN4O2S
